US05952511
To a suspension of 0.05 g of sodium hydride (60%) in 5 ml of N,N-dimethylformamide was added dropwise a solution of 0.36 g of 3,3-bis((1,1-dimethylethoxy)carbonylmethyl)indolin-2-one in 5 ml of N,N-dimethylformamide at 0° C. in a nitrogen stream. After stirring the mixture at that temperature for 30 minutes, 0.12 ml of benzyl bromide was added thereto. The whole mixture was stirred for 1 hour and then concentrated. Chloroform was added to the concentrate, and the mixture was washed with an aqueous solution of sodium chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated to obtain 1-benzyl-3,3-bis((1,1-dimethylethoxy)carbonylmethyl)indolin-2-one.

reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 3,3-bis((1,1-dimethylethoxy)carbonylmethyl)indolin-2-one | 0.36 g | CC(C)(OC(=O)CC1(C(NC2=CC=CC=C12)=O)CC(=O)OC(C)(C)C)C | C20H27NO5
reactant | benzyl bromide | 0.12 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-3,3-bis((1,1-dimethylethoxy)carbonylmethyl)indolin-2-one | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)=O | C27H33NO5
